US08048878B2
Synthesis of (4R*,9aS*)-2-methanesulfonyl-7-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazin-6-one
IPEA (0.02 mL) and methanesulfonyl chloride (0.004 mL) were sequentially added to a solution of (4R*,9aS*)-7-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazin-6-one (20 mg) in methylene chloride (3 mL), and the reaction solution was stirred at 0° C. for one hour. Ethyl acetate and saturated sodium bicarbonate water were added to the reaction solution, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex NH; elution solvent: heptane:ethyl acetate 1:1->ethyl acetate->ethyl acetate:methanol 4:1) to obtain 24 mg of the title compound. The property values of the compound are as follows.

reactant | IPEA | 0.02 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.004 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | (4R*,9aS*)-7-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazin-6-one | 20 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)\C=C\1/CC[C@@H]2N([C@@H](CNC2)C2=CC(=C(C(=C2)F)F)F)C1=O | C26H25F3N4O2
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (4R*,9aS*)-2-methanesulfonyl-7-{1-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-(E)-methylidene}-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazin-6-one | 24 mg | CS(=O)(=O)N1C[C@H]2N([C@@H](C1)C1=CC(=C(C(=C1)F)F)F)C(/C(/CC2)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)=O | C27H27F3N4O4S
